US04994569
A solution of (5RS, 6SR)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazin-5-ol (1.52 g) in anhydrous tetrahydrofuran (10 cc) is added at a temperature in the region of 20° C. to an oily suspension (50% by weight; 0.31 g), maintained under an argon atmosphere, of sodium hydride in anhydrous tetrahydrofuran (20 cc). The mixture is stirred for 30 minutes at the same temperature. A solution of 4-fluorophenyl isocyanate (0.9 g) in anhydrous tetrahydrofuran (10 cc) is then added dropwise and stirring is continued for 4 hours at a temperature in the region of 20° C. Distilled water (25 cc) is then added and the mixture is extracted with dichloromethane (3×50 cc). The organic phases are combined, washed with distilled water (3×20 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residue is purified by chromatography on silica (0.063-0.2 mm; 50 g) contained in a column 2 cm in diameter [eluent: ethyl acetate/cyclohexane (3:7 by volume)], collecting 20-cc fractions. Fractions 3 to 5 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in diisopropyl ether, (5RS, 6SR)-5-(4-fluorophenylcarbamoyloxy)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazine (0.8 g), m.p. 158° C., is obtained.

reactant | (5RS, 6SR)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazin-5-ol | 1.52 g | C1(=CC=CC=C1)C=1OC(C(CN1)O)C1=CC=CC=C1 | C16H15NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-fluorophenyl isocyanate | 0.9 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | water | 25 cc | O | H2O
solvent | tetrahydrofuran | 10 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 cc | O1CCCC1 | C4H8O
product | (5RS, 6SR)-5-(4-fluorophenylcarbamoyloxy)-2,6-diphenyl-5,6-dihydro-4H-1,3-oxazine | 0.8 g | FC1=CC=C(C=C1)NC(=O)OC1CN=C(OC1C1=CC=CC=C1)C1=CC=CC=C1 | C23H19FN2O3
